US07713994B2
6-Aminoisoquinoline-1,3(2H,4H)-dione
A solution of 6.19 g (30 mmol) of 6-nitroisoquinoline-1,3(2H,4H)-dione in 15 ml of MeOH and 150 ml of N,N-dimethylformamide is hydrogenated at 1 atmosphere of H2 at 25° in the presence of 1.5 g of 10% Pd/C for 7 h. The catalyst is removed by filtration through Celite. The filtrate is evaporated to give 5.4 g (100%) of a tan solid, mp 200-220° (dec); MS (ES+) m/z 177.2 (M+H)+1.

reactant | 6-nitroisoquinoline-1,3(2H,4H)-dione | 30 mmol, 6.19 g | [N+](=O)([O-])C=1C=C2CC(NC(C2=CC1)=O)=O | C9H6N2O4
solvent | MeOH | 15 ml | CO | CH4O
solvent | N,N-dimethylformamide | 150 ml | CN(C=O)C | C3H7NO
catalyst | Pd/C | 1.5 g | [Pd] | Pd
product | 6-Aminoisoquinoline-1,3(2H,4H)-dione | 5.4 g, 100% | NC=1C=C2CC(NC(C2=CC1)=O)=O | C9H8N2O2
